US05565463
A mixture of cyanoacetic acid (12.76 g, 150.0 mmol), 4-nitrobenzaldehyde (24.60 g, 162.8 mmol), ammonium acetate (500 mg), toluene (140 mL), and pyridine (75 mL) is refluxed for 64 hours in a flask fitted with a Dean-Stark trap and condenser. After evaporation of the solvents, a solution of the residue in CHCl3 is filtered and washed with H2O. The dried (Na2SO4) organic layer is evaporated, and the bright yellow-orange solid is recrystallized from benzene. The yellow solid 3-(4-nitrophenyl)-acrylonitrile, obtained as a mixture of cis-trans isomers, is suitable for use as an intermediate without further purification.

reactant | cyanoacetic acid | 150.0 mmol, 12.76 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-nitrobenzaldehyde | 162.8 mmol, 24.60 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ammonium acetate | 500 mg | C(C)(=O)[O-].[NH4+]
reactant | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-nitrophenyl)-acrylonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C=CC#N | C9H6N2O2
